US05574178
BF3 etherate (4.7 ml) was added dropwise to a solution of 4-acetoxy-3,5-di-tert-butyl-2-(2,2-diisoamyl-1-hydroxyethyl)-phenol (17.0 g) in dichloromethane (200 ml) under cooling with ice under a nitrogen atmosphere. After stirring the mixture overnight at room temperature, a saturated aqueous solution of sodium hydrogen carbonate was added. After separating the organic layer, the aqueous layer was subjected to extraction with dichloromethane. The extract was combined with the organic layer, washed with saturated brine, dried over anhydrous magnesium sulfate and the solvent was distilled off to afford 5-acetoxy-2,2-diisoamyl-4,6-di-tert-butyl-2,3-dihydrobenzofuran [15.5 g (yield, 95%)] as a colorless oil.

reactant | BF3 | 4.7 ml | B(F)(F)F | BF3
reactant | 4-acetoxy-3,5-di-tert-butyl-2-(2,2-diisoamyl-1-hydroxyethyl)-phenol | 17.0 g | C(C)(=O)OC1=C(C(=C(C=C1C(C)(C)C)O)C(C(CCC(C)C)CCC(C)C)O)C(C)(C)C | C28H48O4
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 5-acetoxy-2,2-diisoamyl-4,6-di-tert-butyl-2,3-dihydrobenzofuran | 15.5 g, 95% | C(C)(=O)OC=1C(=CC2=C(CC(O2)(CCC(C)C)CCC(C)C)C1C(C)(C)C)C(C)(C)C | C28H46O3
